US04351842
2-(1'-Hydroxymethylcyclopropyl)benz[e]isoindoline hydrochloride
Ethyl 1-aminocyclopropanecarboxylate hydrochloride (16 g) in chloroform (50 ml) was added to 1,2-bis(bromomethyl)naphthalene (40 g) and potassium carbonate (40 g) in chloroform (200 ml) kept at 60°. The reaction mixture was refluxed for a further 6 hr and then filtered; the filtrate was evaporated to dryness and the residue [i.e. crude 2-(1'-carbethoxycyclopropyl)benz[e]isoindoline] was dissolved in THF (150 ml) and added to lithium aluminium hydride (10 g) in THF (100 ml) over 0.5 h. Water was then added and the resultant slurry was filtered and the filtrate was evaporated to dryness; the residue was partitioned between ether and water and the ether layer was extracted with concentrated hydrochloric acid. The acidic extract was evaporated to dryness to give a residue which was recrystallised from iso-propanol/ethyl acetate to give the title compound (5.9 g. m.p.192°).

reactant | Ethyl 1-aminocyclopropanecarboxylate hydrochloride | 16 g | Cl.NC1(CC1)C(=O)OCC
reactant | 1,2-bis(bromomethyl)naphthalene | 40 g | BrCC1=C(C=CC2=CC=CC=C12)CBr | C12H10Br2
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(1'-Hydroxymethylcyclopropyl)benz[e]isoindoline hydrochloride | 5.9 g | Cl.OCC1(CC1)N1CC=2C=CC3=C(C2C1)C=CC=C3 | InChI=1S/C16H17NO.ClH/c18-11-16(7-8-16)17-9-13-6-5-12-3-1-2-4-14(12)15(13)10-17;/h1-6,18H,7-11H2;1H
